US08604023B2
5-(5-Aminopyridin-3-yl)-7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one
5,7-Dichloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (240 mg) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-amine (134 mg, 1.2 eq) were suspended in dioxane/water (6 mL/2 mL), and then cesium hydroxide (170 mg, 2 eq) was added and the mixture was degassed by pulling vacuum until bubbling occurred, and then introducing nitrogen gas. The degassing procedure was repeated twice, and then tetrakis(triphenylphosphine)palladium(0) (30 mg, 0.05 eq) was added. The degassing procedure was repeated once, and then the reaction was heated to 90° C. for three hours. The crude mixture was then diluted with EtOAc (20 mL) and then washed with water, then brine, and then it was dried over sodium sulfate, and concentrated onto silica gel. The product was purified by chromatography (gradient: 75:25 hexanes:EtOAc to EtOAc) delivering the product as a solid (90 mg, 33% yield). MS (ES+) m/z 531.0 (M+1).

reactant | 5,7-Dichloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 240 mg | ClC=1C2=C(N(C(C(N1)CC1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)OC)C=CC(=C2)Cl | C24H19Cl3N2O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-amine | 134 mg, 1.2 eq | CC1(OB(OC1(C)C)C=1C=C(C=NC1)N)C | C11H17BN2O2
reactant | cesium hydroxide | 170 mg, 2 eq | [OH-].[Cs+]
solvent | dioxane water | 6 mL | O1CCOCC1.O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 30 mg, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(5-Aminopyridin-3-yl)-7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 90 mg, 33% yield | NC=1C=C(C=NC1)C=1C2=C(N(C(C(N1)CC1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)OC)C=CC(=C2)Cl | C29H24Cl2N4O2
